US05066662
3-Ethyl-4-(4-pyridinylmethyl)-2-oxazolidinone
Diethyl acetamidomalonate (20.0 g, 0.921 mol) is dissolved in 200 mL of absolute ethanol. Sodium metal (4.2 g, 0.1827 mol) is added and the mixture is stirred at room temperature until all of the metal is dissolved. The solution is cooled to 0-5° C. and 13.3 g (0.0811 mol) of 4-picolyl chloride hydrochloride in 100 mL of absolute ethanol is added rapidly. After stirring at room temperature overnight, the mixture is filtered through celite and the filtrate concentrated to a dark oily solid. The residue is dissolved in 200 mL of concentrated hydrochloric acid and refluxed for 4 hours and concentrated in vacuo to a dark oily solid. The residue is dissolved in 200 mL methanol and 2 mL of concentrated hydrochloric acid and refluxed overnight. The solution is concentrated to 16.7 g of orange solid. The hydrochloride salt is purified by trituration with ethanol and ethyl acetate to yield the title compound of a pale yellow solid; mp 180-182° C.

reactant | Diethyl acetamidomalonate | 0.921 mol, 20.0 g | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
reactant | Sodium | 0.1827 mol, 4.2 g | [Na] | Na
reactant | 4-picolyl chloride hydrochloride | 0.0811 mol, 13.3 g | Cl.N1=CC=C(C=C1)CCl
reactant | ethanol | 200 mL | C(C)O | C2H6O
reactant | ethanol | 100 mL | C(C)O | C2H6O
product | 3-Ethyl-4-(4-pyridinylmethyl)-2-oxazolidinone | C(C)N1C(OCC1CC1=CC=NC=C1)=O | C11H14N2O2
